US07759337B2
Synthesis of 6-{5-[(Cyclopropylamino)carbonyl]-2-methylphenyl}-N-isopropylphthalazine-1-carboxamide
3-(1-Cyanophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide (115 mg, 350 μmol) and potassium hydroxide (39 mg, 700 μmol) were dissolved in ethanol/water (1:1) (3.50 mL) before it was placed in the microwave for 10 min at 120° C. The reaction mixture was concentrated before it was dissolved in dimethylformamide (700 μl); HATU (266 mg, 700 μmol) and isopropylamine (150 μl, 1751 μmol) were added. This was stirred at RT for 16 h before more HATU was added, and the reaction mixture was stirred at RT for 7 h. The reaction mixture was diluted with 100 mL of ethyl acetate, added to a separatory funnel, partitioned with water, washed 2× with 50 mL of water, separated, dried over sodium sulfate, concentrated in vacuo, and purified by HPLC to give the title compound.

reactant | 3-(1-Cyanophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide | 350 μmol, 115 mg | C(#N)C1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)NC2CC2)C=CC1C | C20H16N4O
reactant | potassium hydroxide | 700 μmol, 39 mg | [OH-].[K+]
reactant | HATU | 700 μmol, 266 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | isopropylamine | 1751 μmol, 150 μl | C(C)(C)N | C3H9N
solvent | ethanol water | 3.50 mL | C(C)O.O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 6-{5-[(Cyclopropylamino)carbonyl]-2-methylphenyl}-N-isopropylphthalazine-1-carboxamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)C=1C=C2C=NN=C(C2=CC1)C(=O)NC(C)C)C | C23H24N4O2
